* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1103.asc
* Generated by LTspice 24.1.9 for Windows.
M§Q1 N002 N010 N007 N007 Si4410DY
R1 N010 N013 10
C1 N014 0 390p
R2 N012 N011 330
C2 N011 0 .1µ
C3 N012 0 .047µ
R3 N009 0 5.36K
R4 N008 N009 16.2K
D1 N003 N008 BAV21
C4 N003 0 1000p
R5 N004 N003 499
C5 N013 0 1µ
X§U1 N007 N009 N012 0 N014 N005 N013 LT1103
L1 IN N002 1.6m Rpar=1000K
L2 0 N004 55µ Rpar=100K
L3 0 N001 4µ Rpar=10K
D2 N001 OUT 1N5818
C6 OUT 0 3600µ
R6 N004 N006 100
V1 IN 0 175.5
C7 N005 0 39µ
D3 N006 N005 BAV21
R7 IN N005 220K
D4 N007 N005 1N4148
Rload OUT 0 1
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 1200m startup
.model BAV21 D(Is=1e-14 Cjo=10p)
K1 L1 L2 L3 1
.lib LT1103.sub
.backanno
.end
